US05840732
i) Synthesis of 3-[4-(3-trifluoroacetylimidazo(1,2-a)pyridin-8-yloxy)butyl]oxazolidine-2,4-dione
To a solution of 868 mg (3 mmol) of 3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]oxazolidine-2,4-dione in 40 ml of dichloromethane, 5 ml (30 mmol) of trifluoroacetic anhydride and 5 ml of triethylamine were added, followed by stirring at room temperature for 1.5 hours. The mixture was dissolved in dichloromethane, washed with saturated aqueous sodium hydrogen carbonate and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent, n-hexane/ethyl acetate=1/1→1/4). After the solvent was distilled off, the residue was recrystallized from ether to yield 472 mg (40.8%, white crystal) of the desired product.

reactant | 3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]oxazolidine-2,4-dione | 3 mmol, 868 mg | N=1C=CN2C1C(=CC=C2)OCCCCN2C(OCC2=O)=O | C14H15N3O4
reactant | trifluoroacetic anhydride | 30 mmol, 5 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 3-[4-(3-trifluoroacetylimidazo(1,2-a)pyridin-8-yloxy)butyl]oxazolidine-2,4-dione | FC(C(=O)C1=CN=C2N1C=CC=C2OCCCCN2C(OCC2=O)=O)(F)F | C16H14F3N3O5
